US06858613B2
To a suspension of imidazole-2-carboxaldehyde (2.3 g, 23.4 mmol) in 50 mL dioxane is added to ethyl isocyanoacetate (2.9 g, 25.8 mmol) and DBU (3.9 g, 25.8 mmol). After stirring at RT for 5 days, the reaction is neutralized with 10% AcOH. The solvent is removed in vacuo. The residue is taken up in EtOAc/H2O, the aqueous layer is extracted with CHCl3, dried (MgSO4), filtered and concentrated. The residue is purified by chromatography (Biotage 40M, eluting with 5% MeOH/EtOAc). Ethyl imidazo[1,2-c]pyrimidine-7-carboxylate is obtained (1.4 g, 32%) as an off-white solid. 1H NMR (400 MHz, CDCl3) δ9.14, 8.43, 7.88, 7.81, 4.54-4.48, 1.49-1.44.

reactant | imidazole-2-carboxaldehyde | 23.4 mmol, 2.3 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | ethyl isocyanoacetate | 25.8 mmol, 2.9 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | DBU | 25.8 mmol, 3.9 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | AcOH | CC(=O)O | C2H4O2
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | Ethyl imidazo[1,2-c]pyrimidine-7-carboxylate | N=1C=CN2C=NC(=CC21)C(=O)OCC | C9H9N3O2
